US07713988B2
4-[(4,5-Diphenylpyrimidin-2-ylamino)methyl]cyclohexanecarboxylic acid
550 mg (1.69 mmol) of cesium carbonate were added to a suspension of 133 mg (0.84 mmol) of 4-aminomethylcyclohexanecarboxylic acid in 5 ml of toluene, and the mixture was stirred at room temperature. After 30 minutes, 150 mg (0.56 mmol) of 2-chloro-4,5-diphenyl-pyrimidine were added, and the mixture was stirred at 120° C. for 31 hours. The solvent was removed in vacuo and the residue was mixed with dichloromethane and water. The resulting precipitate was filtered off with suction. 135 mg (62%) of the desired product were obtained.

reactant | cesium carbonate | 1.69 mmol, 550 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-aminomethylcyclohexanecarboxylic acid | 0.84 mmol, 133 mg | NCC1CCC(CC1)C(=O)O | C8H15NO2
reactant | 2-chloro-4,5-diphenyl-pyrimidine | 0.56 mmol, 150 mg | ClC1=NC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[(4,5-Diphenylpyrimidin-2-ylamino)methyl]cyclohexanecarboxylic acid | 135 mg, 62% | C1(=CC=CC=C1)C1=NC(=NC=C1C1=CC=CC=C1)NCC1CCC(CC1)C(=O)O | C24H25N3O2
